US05658858
A suspension of 4-bromo-3-ethoxy-2-(N-methyl-N-methylsulphonylamino)benzoyl chloride (2.45 g) in toluene (35 ml) was added to a solution of tert-butyl 3-cyclopropyl-3-oxopropionate magnesium enolate (1.3 g) in toluene (15 ml) and stirred for 2 days. Trifluoroacetic acid (1.1 ml) was added and the mixture was warmed at 65° C. for 1.5 hours, then cooled, washed with water, the organic extract dried (anhydrous magnesium sulphate) and the solvent evaporated. Purification by chromatograhpy gave 1-[4-bromo-3-ethoxy-2-(N-methyl-N-methylsulphonylamino)phenyl]-3 -cyclopropylpropane-1,3-dione (1.87 g) as a yellow semi-solid, NMR 1.05(m,2H), 1.2(m,2H), 1.5(t,3H), 1.75(m,1H), 3.0(s,3H), 3.3(s,3H), 4.2(brm,2H), 6.1(s,1H), 7.15(d,1H), 7.6(d,1H), 15.9(brs,1H).

reactant | 4-bromo-3-ethoxy-2-(N-methyl-N-methylsulphonylamino)benzoyl chloride | 2.45 g | BrC1=C(C(=C(C(=O)Cl)C=C1)N(S(=O)(=O)C)C)OCC | C11H13BrClNO4S
reactant | Trifluoroacetic acid | 1.1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[4-bromo-3-ethoxy-2-(N-methyl-N-methylsulphonylamino)phenyl]-3 -cyclopropylpropane-1,3-dione | 1.87 g | BrC1=C(C(=C(C=C1)C(CC(=O)C1CC1)=O)N(S(=O)(=O)C)C)OCC | C16H20BrNO5S
